US20010036946A1
1-acetyl-4-[1-(phenylmethyl)-4-piperidinyl]piperizine from 1-acetylpiperazine and 1-(phenylmethyl)-4-piperidinone Yield: 24.2% of theory, colourless viscous oil Rf: 0.46 (eluant: ethyl acetate/methanol/conc. ammonia 50/50/2 v/v/v) IR(KBr): 1647 cm−1 (C═O) MS: M+=301

reactant | 1-acetyl-4-[1-(phenylmethyl)-4-piperidinyl]piperizine | C(C)(=O)N1CCN(CC1)C1CCN(CC1)CC1=CC=CC=C1 | C18H27N3O
reactant | 1-acetylpiperazine | C(C)(=O)N1CCNCC1 | C6H12N2O
product | 1-(phenylmethyl)-4-piperidinone | Yield: 24.2% | C1(=CC=CC=C1)CN1CCC(CC1)=O | C12H15NO
